US07923561B2
(R)-Indan-1-yl-[5-(3-methoxy-benzyloxy)-quinolin-2-yl]-amine
The title compound, MS: m/e=397.5 (M+H+), was prepared in accordance with the general method of example 2 from 5-hydroxy-2-chloroquinoline, 3-methoxy-benzylbromide and (R)-1-aminoindane.

reactant | 5-hydroxy-2-chloroquinoline | OC1=C2C=CC(=NC2=CC=C1)Cl | C9H6ClNO
reactant | 3-methoxy-benzylbromide | COC=1C=C(CBr)C=CC1 | C8H9BrO
reactant | (R)-1-aminoindane | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
product | (R)-Indan-1-yl-[5-(3-methoxy-benzyloxy)-quinolin-2-yl]-amine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=CC(=C2C=C1)OCC1=CC(=CC=C1)OC | C26H24N2O2
